US08492582B2
Thioanisole (0.82 mL) and trifluoroacetic acid (2.6 mL) were added to the obtained tert-butyl 2-(2-(benzyloxy)-4-(furan-3-yl)benzamido)-4-phenylbenzoate (0.076 g), followed by stirring at room temperature for 3 hours and 20 minutes. The solvent was evaporated under reduced pressure, and a 2 mol/L aqueous solution of sodium hydroxide and toluene were added to the residue. The aqueous layer was separated and adjusted to a pH of 4.5 with 6 mol/L hydrochloric acid. The solid substance was collected by filtration to obtain 0.016 g of 2-(4-(furan-3-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid as a brown solid.

reactant | Thioanisole | 0.82 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 2.6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-(benzyloxy)-4-(furan-3-yl)benzamido)-4-phenylbenzoate | 0.076 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=COC=C1 | C35H31NO5
product | 2-(4-(furan-3-yl)-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.016 g | O1C=C(C=C1)C1=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C1)O | C24H17NO5
